US07906546B2
In analogy to example 3.1:1.74 g (4.8 mmol) of (naphthalene-1-sulfonyl)-(3-oxo-cyclohexyl)-acetic acid methyl ester was dissolved in 10 mL of DMF at 0° C. 232 mg (5.3 mmol, 1.1 eq) of NaH (60%) were added and the reaction mixture was stirred 30 minutes before the addition of 1.03 g (7.2 mmol, 1.5 eq) of methyliodide. The reaction was stirred over night, poured on water and extracted with EtOAc. The combined organic phases were dried over Na2SO4, filtered and evaporated. The resulting two diastereomers were separated by column chromatography on silica gel with AcOEt/heptane 2:1, yielded 0.30 g (17%) of (RS,SR)-2-(naphthalene-1-sulfonyl)-2-(3-oxocyclohexyl)-propionic acid methyl ester as a white foam MS: 375 (MH+) and 0.42 g (23%) of (RR,SS)-2-(naphthalene-1-sulfonyl)-2-(3-oxocyclohexyl)-propionic acid methyl ester as a white solid MS: 375 (MH+).

reactant | (naphthalene-1-sulfonyl)-(3-oxo-cyclohexyl)-acetic acid methyl ester | 4.8 mmol, 1.74 g | COC(C(C1CC(CCC1)=O)S(=O)(=O)C1=CC=CC2=CC=CC=C12)=O | C19H20O5S
reactant | NaH | 5.3 mmol, 232 mg, 1.1 eq | [H-].[Na+]
reactant | methyliodide | 7.2 mmol, 1.03 g, 1.5 eq | CI | CH3I
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (RS,SR)-2-(naphthalene-1-sulfonyl)-2-(3-oxocyclohexyl)-propionic acid methyl ester | 0.30 g, 17% | COC(C(C)(C1CC(CCC1)=O)S(=O)(=O)C1=CC=CC2=CC=CC=C12)=O | C20H22O5S
